US05574042
To a suspension of 3-bromo-8-[2,6-dichloro-3-(N-glycyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine (150 mg) in formic acid (1 ml) was added acetic anhydride (65 mg), and the mixture was stirred for 1.5 hours. Acetic anhydride (40 mg) was added thereto, and the mixture was stirred for 3 hours. The mixture was concentrated in vacuo, and a saturated aqueous solution of sodium bicarbonate was added thereto, and the mixture was extracted with methylene chloride three times. The organic layers were combined, washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (methylene chloride:methanol=5:1, V/V) to give 3-bromo-8-[2,6-dichloro-3-[N-(formylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (102 mg).

reactant | 3-bromo-8-[2,6-dichloro-3-(N-glycyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine | 150 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CN)=O)Cl)C | C18H17BrCl2N4O2
reactant | acetic anhydride | 65 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | Acetic anhydride | 40 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 1 ml | C(=O)O | CH2O2
product | 3-bromo-8-[2,6-dichloro-3-[N-(formylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 102 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC=O)=O)Cl)C | C19H17BrCl2N4O3
